US05272147
5-(5-Bromoacetyl-2-n-propoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one
Aluminum trichloride (6.0 g, 0.045 mol) was added portionwise to a stirred solution of -1-methyl-5-(2-n-propoxyphenyl)-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one (5.0 g, 0.0153 mol) and 2-bromoacetyl chloride (2.5 ml, 0.0303 mol) in dichloromethane (100 ml) at 0° C. The reaction mixture was allowed to warm to room temperature, stirred for 18 hours, heated under reflux for 3 hours and then added cautiously to ice and water (100 g). The resulting mixture was stirred for 1 hour and extracted with dichloromethane (2×50 ml). The combined organic extracts were washed with brine (2×50 ml), dried (Na2SO4), then evaporated under vacuum to give an off-white solid, which was triturated with ether to give the title compound as a white solid (4.1 g, 60%). A small sample was crystallised from ethyl acetate-hexane to give the pure product, m.p. 136°-137° C. Found: C,53.82; H,5.24; N,12.57. C20H23BrN4O3 requires C,53.70;H,5.18; N,12.52%

reactant | Aluminum trichloride | 0.045 mol, 6.0 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 1-methyl-5-(2-n-propoxyphenyl)-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | 0.0153 mol, 5.0 g | CN1N=C(C=2N=C(NC(C21)=O)C2=C(C=CC=C2)OCCC)CCC | C18H22N4O2
reactant | 2-bromoacetyl chloride | 0.0303 mol, 2.5 ml | BrCC(=O)Cl | C2H2BrClO
reactant | water | 100 g | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-(5-Bromoacetyl-2-n-propoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | 4.1 g, 60% | BrCC(=O)C=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)OCCC | C20H23BrN4O3
